US04281141
2-butyl-4-chloro-2-phenyl-4-pentenenitrile
A 7.62 g. portion of 2-phenylhexanenitrile and 2.11 g. of 50% sodium hydride were combined in 30 ml. of dry dimethylformamide, and the mixture was stirred for 1.5 hours at 50°-55° C. The mixture was then cooled to 20° C. and 4.88 g. of 2,3-dichloro-1-propene was added dropwise, followed by an additional 10 ml. of dry dimethylformamide. The reaction mixture warmed spontaneously to about 35° C., and it was warmed to 55° C. after the addition and was stirred at that temperature for 1.5 hours. The mixture was then allowed to cool to ambient temperature and was stirred for 64 hours. It was then filtered to remove insoluble inorganics, and the solids were washed with ethyl acetate. The filtrate was evaporated under vacuum to an oil, which was dissolved in diethyl ether and was washed with water. The residue was taken up in ethanol and evaporated to dryness under vacuum to obtain 10.85 g. of the crude product named in the heading above. The product was identified by 60 mHz nuclear magnetic resonance analysis in CDDl3 : δ7.37 (m, 5H); 5.25 (d, 1H, J=2 Hz); 5.08 (d, 1H, J=2 Hz); 2.93 (s, 2H); 1.97 (dt, 2H); 1.25 (m, 4H); 0.83 (t, 3H).

reactant | 2-phenylhexanenitrile | C1(=CC=CC=C1)C(C#N)CCCC | C12H15N
reactant | sodium hydride | [H-].[Na+]
reactant | 2,3-dichloro-1-propene | ClC(=C)CCl | C3H4Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-butyl-4-chloro-2-phenyl-4-pentenenitrile | C(CCC)C(C#N)(CC(=C)Cl)C1=CC=CC=C1 | C15H18ClN
